US08106202B2
Potassium tert-butoxide (3.69 g, 0.033 mole), 5 mL of dimethylacetamide and 1.31 mL (0.033 mole) of formamide were added in a 50 mL round-bottomed flask, under inert atmosphere followed by stirring for 30 minutes. After addition of 4-bromo-1H-imidazo[4,5-c]quinoline (1 g, 3.3 mmoles), the mixture was heated at 140° C., followed by stirring for 2 hours and then cooled to room temperature. Then 10 mL of water were added and the reaction mixture was filtered followed by washing with abundant water and dried to give 0.75 g of 1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine. Yield 75.4%.

reactant | Potassium tert-butoxide | 0.033 mole, 3.69 g | CC(C)([O-])C.[K+]
reactant | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
reactant | formamide | 0.033 mole, 1.31 mL | C(=O)N | CH3NO
reactant | 4-bromo-1H-imidazo[4,5-c]quinoline | 3.3 mmoles, 1 g | BrC1=NC=2C=CC=CC2C2=C1N=CN2 | C10H6BrN3
solvent | water | 10 mL | O | H2O
product | 1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.75 g, Yield 75.4% | C(C(C)C)N1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H16N4
